US07659394B2
(R)-2-[(S)-(Benzofuran-6-yloxy)-phenyl-methyl]-morpholine was synthesized from 2-(Hydroxy-phenyl-methyl)-morpholine-4-carboxylic acid tert-butyl ester and 6-hydroxybenzofuran according General Procedure C employing the alternate etherification sequence (via the mesylate) and was isolated as an oil. MS (APCI): 310 [M+H]+.

reactant | 2-(Hydroxy-phenyl-methyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)C(C1=CC=CC=C1)O | C16H23NO4
reactant | 6-hydroxybenzofuran | OC1=CC2=C(C=CO2)C=C1 | C8H6O2
reactant | mesylate | S(C)(=O)(=O)[O-]
product | (R)-2-[(S)-(Benzofuran-6-yloxy)-phenyl-methyl]-morpholine | O1C=CC2=C1C=C(C=C2)O[C@H]([C@H]2CNCCO2)C2=CC=CC=C2 | C19H19NO3
